US07504517B2
Preparation of 4-(3,4-dimethylphenyl)-3-[2-(4-methoxyphenyl)ethyl]-1-[(pyridin-4-ylmethyl)amino]-imidazolidin-2-one:
A solution of N-{4-(3,4-dimethylphenyl)-3-[2-(4-methoxyphenyl)ethyl]-2-oxo-imidazolidin-1-yl}-3,3-dimethyl-N-pyridin-4-ylmethyl-butyramide (205 mg, 0.386 mmol) in CH2Cl2 (1.5 mL) is cooled in an ice bath and triethylsilane (0.129 mL, 0.81 mmol) is added, followed by trifluoroacetic acid (1.5 mL). The ice bath is removed and the reaction is stirred at ambient temperature for 2.5 hours. The reaction is concentrated to an oil, dissolved in ethyl acetate, and washed with 10% aqueous NaHCO3, and brine. The organic phase is dried (Na2SO4), treated with 2N HCl/ether (0.7 mL), and concentrated under reduced pressure. The solid which results is re-crystallized from dichloromethane/ether to afford 174 mg (76% yield) of the desired compound. 1H NMR (DMSO-d6) δ 8.92 (d, J=6.0 Hz, 2H), 8.21 (d, J=6.0 Hz, 2H), 7.14 (d, J=7.5 Hz, 1H), 7.00 (m, 4H), 6.82 (d, J=8.1 Hz, 2H), 4.38 (m, 3H), 3.74 (s, 3H), 3.72 (m, 1H), 3.44 (m, 1H), 3.14 (t, J=7.8 Hz, 1H), 2.68 (m, 1H), 2.52 (m, 1H), 2.24 (s, 3H), 2.20 (s, 3H). MS 431 (MH+). Anal. calcd. for C26H30N4O22HCl: C, 62.03, H, 6.41; N, 11.13. Found: C, 61.99, H, 6.41; N, 11.13.

reactant | N-{4-(3,4-dimethylphenyl)-3-[2-(4-methoxyphenyl)ethyl]-2-oxo-imidazolidin-1-yl}-3,3-dimethyl-N-pyridin-4-ylmethyl-butyramide | 0.386 mmol, 205 mg | CC=1C=C(C=CC1C)C1N(C(N(C1)N(C(CC(C)(C)C)=O)CC1=CC=NC=C1)=O)CCC1=CC=C(C=C1)OC | C32H40N4O3
reactant | triethylsilane | 0.81 mmol, 0.129 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-dimethylphenyl)-3-[2-(4-methoxyphenyl)ethyl]-1-[(pyridin-4-ylmethyl)amino]-imidazolidin-2-one | 174 mg, 76% yield | CC=1C=C(C=CC1C)C1N(C(N(C1)NCC1=CC=NC=C1)=O)CCC1=CC=C(C=C1)OC | C26H30N4O2
